Simulacao t<0

*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* Passive Elements - Resistors
R1 1 2 1.02597459645kOhm
R2 3 2 2.02178008702kOhm
R3 2 5 3.03144887426kOhm
R4 5 0 4.13109833342kOhm
R5 5 6 3.09601431108kOhm
R6 0 4 2.01920057699kOhm
R7 7 8 1.02918842978kOhm

* supply voltage
Vs 1 0 5.1256272592V

* add a voltage source with value 0V to sence de control current
Vo 4 7 0V

* capacitor
C 6 8 1.011814928uF

* current-controlled dependent voltage source
Hvd 5 8 Vo 8.0919603219kOhm

* voltage-controlled dependent current source
Gib 6 3 2 5 7.28538907285mS


.control
op

echo "op_TAB"
print all
echo "op_END"

quit
.endc

.end
